US09326973B2
To a solution of 1-(4-bromo-2-methylphenyl)ethanone (0.525 g, 2.464 mmol) in THF was added phenyltrimethylammonium tribromide (0.926 g, 2.464 mmol). The reaction mixture was stirred at rt for 16 hrs. The reaction mixture was filtered through a plug of diatomaceous earth (Celite®), and the filtrate was concentrated to yield 2-bromo-1-(4-bromo-2-methylphenyl)-ethanone (0.61 g) as a white solid. LC/MS (Cond. N-1): [M+H]+ 290.84, Rt=3.88 min.

reactant | 1-(4-bromo-2-methylphenyl)ethanone | 2.464 mmol, 0.525 g | BrC1=CC(=C(C=C1)C(C)=O)C | C9H9BrO
reactant | phenyltrimethylammonium tribromide | 2.464 mmol, 0.926 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 2-bromo-1-(4-bromo-2-methylphenyl)-ethanone | 0.61 g | BrCC(=O)C1=C(C=C(C=C1)Br)C | C9H8Br2O
